* source FUENTERMNCONPID
V_Vkepco         N902185 0 5Vdc
X_U28         N900387 N900317 15V -15V N901903 AD817/AD
R_R17         N900427 N900407  27k TC=0,0 
R_R15         N900893 N900467  10K TC=0,0 
C_Cpol         N900467 N900479  1n  TC=0,0 
D_VS-HFA135NH40PBF-ND         N901523 N901575 hfa140nh60r 
X_U4         N901141 N900427 15V -15V N900407 LM7171A/NS
V_V3         -15V 0 -15
X_U7         N900391 0 0 VMAX 15V MAX4376H 
L_Liman         N901575 N901569  5uH  
V_Vgenerador         N900571 0 DC 0 
+PULSE 0 {valto} 0 10n 10n 100u 150u
V_Vpolariza         N900893 0 0
L_Lsource         N900373 N901655  20n  
C_CCOMPsh         N900373 N900391  10n  TC=0,0 
R_Rg_ext         N900479 VG  27 TC=0,0 
V_V2         15V 0 15
R_Rfuente         N901575 N9022031  0.1m TC=0,0 
R_R57         N901903 N900317  1 TC=0,0 
R_R64         VD N901523  15 TC=0,0 
R_R13         VMAX N900427  10K TC=0,0 
R_R23         N900829 N900847  10k TC=0,0 
R_Rdiv2         0 N900387  20k TC=0,0 
R_R16         0 N901141  27k TC=0,0 
R_R22         N901903 N900829  10k TC=0,0 
R_Rsh         N900373 N902377  0.00333 TC=0,0 
R_Rsource         0 N901655  0.1m TC=0,0 
R_R48         N901851 N901767  25k TC=0,0 
X_U14         N901723 N901851 15V -15V N901767 LM7171A/NS
R_R18         N900407 N901335  10k TC=0,0 
R_R47         N900571 N900795  10k TC=0,0 
L_Lsh         VS N902377  1n  
X_U6         N901335 N900467 15V -15V N900479 LM7171A/NS
R_R20         N900467 N900479  22k TC=0,0 
R_R21         N900795 0  10k TC=0,0 
C_Csn         VS N900367  100n  TC=0,0 
R_R63         N900847 N901723  10k TC=0,0 
R_Rsn         N900367 VD  10 TC=0,0 
R_R19         0 N901335  22k TC=0,0 
C_Clazo         0 N900387  190p  TC=0,0 
R_R49         0 N901851  10k TC=0,0 
C_Cerror         N900427 N900407  {cap}  TC=0,0 
R_Rdiv1         N900387 VMAX  10k TC=0,0 
L_Lfuente         N902185 N9022031  20n  
X_U26         N900795 N900829 15V -15V N900847 AD817/AD
R_Riman         VD N901569  0.019 TC=0,0 
R_R14         N901767 N901141  10K TC=0,0 
X_U10         VS VD T5KP10A 
R_RCOMPsh         VS N900391  22 TC=0,0 
X_U29         VD VG VS STD18NF03LMODIF 
.PARAM  lpar=20n lparas=5n valto=4 lshunt=1n rcomp=2.2 cap=470p
